US05883106
A. 4-(2-Methylimidazol-1-yl)phenyliodide
To a stirred solution of 2-methylimidazole (13.6 g, 165 mmol) in DMF (500 ml) was added sodium hydride (6.60 g, 165 mmol, 60% dispersion in mineral oil) in portions. The resulting white suspension was stirred at room temperature for 30 min, 4-fluoroiodobenzene (33.3 g, 150 mmol) added and the mixture heated at 100° C. After 16 hr, the bulk of DMF was removed by evaporation. The residue was then partitioned between a mixture of ethyl acetate-toluene (2:1, 500 ml) and water(250 ml). The organic layer was separated and washed with water (250 ml). Product was extracted with 10% aqueous hydrogen chloride (2×200 ml) and the combined aqueous extracts neutralized with 30% aqueous potassium hydroxide. The resulting suspension was extracted with a mixture of ethyl acetate-toluene (2:1, 3×250 ml) and the combined organic extracts washed with water (2×250 ml), brine (250 ml), dried (magnesium sulfate) and concentrated to dryness. The residue was recrystallized from toluene to afford the titled compound as off-white solids (21.9 g, 51%).

reactant | 2-methylimidazole | 165 mmol, 13.6 g | CC=1NC=CN1 | C4H6N2
reactant | sodium hydride | 165 mmol, 6.60 g | [H-].[Na+]
reactant | 4-fluoroiodobenzene | 150 mmol, 33.3 g | FC1=CC=C(C=C1)I | C6H4FI
solvent | DMF | 500 ml | CN(C)C=O | C3H7NO
product | 4-(2-Methylimidazol-1-yl)phenyliodide | 21.9 g, 51% | CC=1N(C=CN1)C1=CC=C(C=C1)I | C10H9IN2
